* C:\Users\Laurent\Documents\git_z180\hardware\mio\sound\Draft1.asc
V1 N001 0 12
V2 N003 0 PWL file=C:\Users\Laurent\Desktop\out.pwl
R1 N004 N003 1K
R3 N002 0 100K
C1 N004 0 10n
XU1 N004 N002 N001 0 N002 LT1677
.tran 0.04
.lib LTC.lib
.backanno
.end
